US04374137
N-Phenoxycarbonylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline]
To a previously flamed 2000 ml round-bottom flask is added N-methylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline] (32.5 g) in dichloromethane (700 ml). To this is added phenylchloroformate (20 ml). The mixture is stirred overnight. Removal of the solvent yields an oil. Trituration with n-propanol followed by recrystallization of 4.0 g of the solid so formed from ethyl acetate yields 2.6 g (69.7%) of product, mp 128°.

reactant | N-methylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline] | 32.5 g | CN1CC2=CC=CC=C2C2(C1)OC1=C(C2)C=CC=C1 | C17H17NO
reactant | phenylchloroformate | 20 ml | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | dichloromethane | 700 ml | ClCCl | CH2Cl2
product | N-Phenoxycarbonylspiro[benzofuran-2(3H),4'(2'H)-isoquinoline] | 2.6 g, 69.7% | O(C1=CC=CC=C1)C(=O)N1CC2=CC=CC=C2C2(C1)OC1=C(C2)C=CC=C1 | C23H19NO3
